US08476297B2
Step 1: 4-Nitrophenyl 4,4-difluorocyclohexylcarbamate
To a solution of 4,4-difluorocyclohexanamine hydrochloride (Matrix scientific, 250 mg, 1.45 mmol) in DCM (5 mL) was added 4-nitrophenyl chloroformate (367 mg, 1.82 mmol) and DIEA (507 μl, 0.29 mmol). The resulting mixture was then stirred at RT for 16 h. Then, MeOH (2 mL) was added and the solvents were removed. The residue was purified by silica gel flash column chromatography (0%-100% EtOAc/hexane) to give the title compound as a yellow solid.

reactant | 4,4-difluorocyclohexanamine hydrochloride | 1.45 mmol, 250 mg | Cl.FC1(CCC(CC1)N)F
reactant | 4-nitrophenyl chloroformate | 1.82 mmol, 367 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIEA | 0.29 mmol, 507 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 2 mL | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrophenyl 4,4-difluorocyclohexylcarbamate | FC1(CCC(CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)F | C13H14F2N2O4
